US05571810
Titanium (IV) chloride (2.7 ml) was added dropwise to a stirred solution of 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (5 g) and acetyl chloride (2.2 ml) in benzene (50 ml) at 5° to 10° C. The mixture was stirred at ambient temperature for 4 hours, poured into ice-water, and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium bicarbonate, dried and concentrated. The residue was recrystallized from a mixture of ethanol and ethyl acetate to give pale brown crystals of 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (3.7 g).

reactant | 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 5 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)S(=O)(=O)C | C17H13FO2S2
reactant | acetyl chloride | 2.2 ml | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | Titanium (IV) chloride | 2.7 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 3.7 g | C(C)(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO3S2
